US07166617B2
a) 3-Methoxybenzyltriphenylphosphonium chloride
3-Methoxybenzyl chloride (1.05 g, 6.69 mmol), triphenylphosphine (1.75 g, 6.67 mmol) was dissolved in dimethylformamide (10 ml) and heated at 150° C. for 40 minutes. The reaction mixture was cooled to room temperature, and the solid precipitated was collected by filtration and washed and ethyl ether, and then dried under reduced pressure to obtain the title compound as colorless solid 1.70 g (yield: 61%).

reactant | 3-Methoxybenzyl chloride | 6.69 mmol, 1.05 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | triphenylphosphine | 6.67 mmol, 1.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Methoxybenzyltriphenylphosphonium chloride | 1.70 g, yield: 61% | [Cl-].COC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | InChI=1S/C26H24OP.ClH/c1-27-23-13-11-12-22(20-23)21-28(24-14-5-2-6-15-24,25-16-7-3-8-17-25)26-18-9-4-10-19-26;/h2-20H,21H2,1H3;1H/q+1;/p-1
